US05432267
Preparation of 2-Benzyloxycarbonyl-1-(benzyloxycarbonylmethyl)ethyl 3-O-Benzyloxycarbonyl-2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside
In 15 ml of dried methylene chloride was dissolved 2.32 g of 2-benzyloxycarbonyl-1-(benzyloxycarbonylmethyl)ethyl 2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside, and 2.04 ml of 2,2-dimethoxypropane and 38 mg of camphorsulfonic acid were added thereto at room temperature, followed by stirring at room temperature for 15 hours. Further, 20 mg of camphorsulfonic acid and 2.04 ml of 2,2-dimethoxypropane were added thereto, and the stirring was continued for an additional period of 8 hours. The reaction mixture was neutralized with anhydrous potassium carbonate while stirring, washed successively with water and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure. The resulting yellow oily substance was dissolved in 20 ml of dried methylene chloride, and 0.40 ml of pyridine, 0.61 g of N,N-dimethylaminopyridine, and 0.71 ml of benzyloxycarbonyl chloride were successively added thereto at room temperature, followed by stirring at room temperature for 12 hours. The reaction mixture was washed successively with 1N hydrochloric acid, water, and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure. The resulting yellow oily substance was dissolved in 50 ml of a 90% acetic acid aqueous solution, and the solution was stirred at 90° C. for 30 minutes. After cooling, the solvent was removed by distillation under reduced pressure. Toluene was added to the residue and then removed by distillation under reduced pressure. Toluene addition and removal were repeated, and the resulting residue was purified by silica gel column chromatography (developing solvent: 5% acetone-containing chloroform, changed en route to 2% methanol-containing chloroform) to obtain a pale yellow oily substance. Recrystallization from hexane followed by filtration gave 2.42 g of the titled compound as a white solid. This solid could be recrystallized from hexane.

reactant | 2-benzyloxycarbonyl-1-(benzyloxycarbonylmethyl)ethyl 2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside | 2.32 g | C(CCCCCCCCCCCCC)(=O)N[C@H]1[C@@H](OC(CC(=O)OCC2=CC=CC=C2)CC(=O)OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O)CO | C39H57NO10
reactant | 2,2-dimethoxypropane | 2.04 ml | COC(C)(C)OC | C5H12O2
reactant | camphorsulfonic acid | 38 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | camphorsulfonic acid | 20 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 2,2-dimethoxypropane | 2.04 ml | COC(C)(C)OC | C5H12O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-Benzyloxycarbonyl-1-(benzyloxycarbonylmethyl)ethyl 3-O-Benzyloxycarbonyl-2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside | 2.42 g | C(C1=CC=CC=C1)OC(=O)O[C@@H]1[C@H]([C@@H](OC(CC(=O)OCC2=CC=CC=C2)CC(=O)OCC2=CC=CC=C2)O[C@@H]([C@H]1O)CO)NC(CCCCCCCCCCCCC)=O | C47H63NO12
